US05202407
A. Preparation of ethyltri-p-tolylphosphonium iodide catalyst
Into a 50 milliliter glass reactor equipped with a thermometer connected to a temperature controller, a heating mantle, a condenser and a magnetic stirring bar, is charged 5 gms (0.0164 mole) of tri-p-tolyl phosphine and 25 gms of toluene. The slurry is heated to 25° C., then 3 gms (0.0192 mole) of ethyl iodide is added. This reaction mass is heated to 60° C. and maintained for 14 hours, then cooled and the resulting phosphonium salt collected by filtration. After vacuum drying, there is obtained 6.85 gms of catalyst which has a melting point of 184°-187° C. and a chemical shift of 24.7 ppm (phosphoric acid reference).

reactant | tri-p-tolyl phosphine | 0.0164 mole, 5 gms | C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C21H21P
reactant | ethyl iodide | 0.0192 mole, 3 gms | C(C)I | C2H5I
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | toluene | 25 gms | C1(=CC=CC=C1)C | C7H8
product | ethyltri-p-tolylphosphonium iodide | [I-].C(C)[P+](C1=CC=C(C=C1)C)(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | InChI=1S/C23H26P.HI/c1-5-24(21-12-6-18(2)7-13-21,22-14-8-19(3)9-15-22)23-16-10-20(4)11-17-23;/h6-17H,5H2,1-4H3;1H/q+1;/p-1
